US06340697B1
A pyridine (55 ml) solution of hydroxylamine hydrochloride (5.19 g, 73.0 mmol) was added to (3-methyl-1, 2, 5-oxadiazol-4-yl) phenylmethanone (3.43 g, 18.0 mmol) and heated to 70° C. for 21 hours with stirring. After the reacted solution was condensed, the residue was dissolved in ethyl acetate. After washing with diluted hydrochloride and subsequent washing with water, the residue was dried with magnesium carbonate. After removing the solvent and purifying the residue by column chromatography, (Z)-(3-methyl-1, 2, 5-oxadiazol-4-yl) phenylmethanone oxime (2.13 g) and (E)-(3-methyl-1, 2, 5-oxadiazol-4-yl)phenylmethanone oxime (0.79 g) were obtained.

reactant | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 73.0 mmol, 5.19 g | Cl.NO
reactant | (3-methyl-1, 2, 5-oxadiazol-4-yl) phenylmethanone | 18.0 mmol, 3.43 g | CC1=NON=C1C(=O)C1=CC=CC=C1 | C10H8N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-(3-methyl-1, 2, 5-oxadiazol-4-yl)phenylmethanone oxime | 0.79 g | CC1=NON=C1/C(=N/O)/C1=CC=CC=C1 | C10H9N3O2
